US07087597B1
(2,3-dihydrobenzo[b]furan-5-yl)methanol
To a solution of 2,3-dihydrobenzo[b]furan-5-carboxylic acid (1.64 g, 10 mmol) in tetrahydrofuran (10 mL) was added under ice-cooling lithium aluminum hydride (949 mg, 25 mmol) and the mixture was stirred at 60° C. for 1 h. The reaction mixture was stirred under ice-cooling and methanol and 1N hydrochloric acid were added. The precipitate was filtered off and the mother liquor was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give an almost pure title compound (1.5 g, 100%).

reactant | 2,3-dihydrobenzo[b]furan-5-carboxylic acid | 10 mmol, 1.64 g | O1C2=C(CC1)C=C(C=C2)C(=O)O | C9H8O3
reactant | lithium aluminum hydride | 25 mmol, 949 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2,3-dihydrobenzo[b]furan-5-yl)methanol | 1.5 g, 100% | O1C2=C(CC1)C=C(C=C2)CO | C9H10O2
